US07432288B2
3-[(4-Methoxyphenyl)amino]-4-phenyl-1-(3,3,3-trifluoropropyl)-1H-pyrrole-2,5-dione
To a solution of 3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione (0.17 mmol, 50 mg), 3,3,3-trifluoropropan-1-ol (0.19 mmol, 21 mg), diethyl azodicarboxylate (0.19 mmol, 33 mg) in dry THF (1 mL) was added triphenylphosphine (0.19 mmol, 49 mg) in dry THF (1 mL). The mixture was heated in a microwave reactor at 130° C. for six min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 51 mg (77%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.27 (bs, 1H), 7.17-7.06 (m, 3H), 7.00-6.95 (m, 2H), 6.64-6.55 (m, 4H), 3.89 (t, J=7.3 Hz, 2H), 3.70 (s, 3H), 2.61-2.48 (m, 2H).

reactant | 3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione | 0.17 mmol, 50 mg | COC1=CC=C(C=C1)NC=1C(NC(C1C1=CC=CC=C1)=O)=O | C17H14N2O3
reactant | 3,3,3-trifluoropropan-1-ol | 0.19 mmol, 21 mg | FC(CCO)(F)F | C3H5F3O
reactant | diethyl azodicarboxylate | 0.19 mmol, 33 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.19 mmol, 49 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-[(4-Methoxyphenyl)amino]-4-phenyl-1-(3,3,3-trifluoropropyl)-1H-pyrrole-2,5-dione | 51 mg, 77% | COC1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CCC(F)(F)F)=O | C20H17F3N2O3
